US08629137B2
0.10 g (2.2 mmol) sodium hydride (55%, suspension in mineral oil) were added to 0.61 g (2.0 mmol) 6-(2-chloro-5-methyl-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in admixture with 6-(2-chloro-3-methyl-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one in 5 mL DMF at RT. The reaction mixture was stirred for 30 min at RT. Then 0.17 mL (2.6 mmol) iodomethane were added and the mixture was stirred for 1 h at RT. Then a further 0.1 mL iodomethane were added and the mixture was stirred further at RT. Ice water was added to the reaction mixture and the precipitate formed was suction filtered. The residue was purified by flash chromatography. The fractions containing the product were combined, evaporated down, triturated with diethyl ether, suction filtered and dried. The product was obtained in admixture with 6-(2-chloro-3-methyl-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and reacted further as such.

reactant | sodium hydride | 2.2 mmol, 0.10 g | [H-].[Na+]
reactant | 6-(2-chloro-5-methyl-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | 2.0 mmol, 0.61 g | ClC1=NC=C(C(=C1)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C)C | C15H11ClN2O3
reactant | 6-(2-chloro-3-methyl-pyridine-4-carbonyl)-4-methyl-3H-benzoxazol-2-one | ClC1=NC=CC(=C1C)C(=O)C1=CC2=C(NC(O2)=O)C(=C1)C | C15H11ClN2O3
reactant | iodomethane | 2.6 mmol, 0.17 mL | IC | CH3I
reactant | iodomethane | 0.1 mL | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(2-chloro-3-methyl-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | ClC1=NC=CC(=C1C)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C16H13ClN2O3
